US06747023B1
A saturated solution of hydrochloride in methanol (12 ml) was added to 1-(t-butoxycarbonyl)-4-[5-(2-methylpyridin-4-yl)thiazol-2-yl]piperazine (400 mg) at room temperature. After stirring for 10 minutes, the reaction mixture was concentrated under reduced pressure, whereby 1-[5-(2-methylpyridin-4-yl)thiazol-2-yl]piperazine hydrochloride was obtained as a white solid. In a solution of the resulting hydrochloride in methylene chloride (12 ml) was dissolved 5-chloro-1-phenylsulfonylindol-2-sulfonyl chloride (522 mg), followed by the addition of diisopropylethylamine (538 μl) at room temperature. After stirring for 3 hours, a saturated aqueous solution (50 ml) of sodium bicarbonate was added to the reaction. mixture to separate it into layers. The water layer was extracted with methylene chloride (2×15 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:acetone=7:1), whereby the title compound (240 mg) was obtained as a foam.

reactant | hydrochloride | Cl | ClH
reactant | 1-(t-butoxycarbonyl)-4-[5-(2-methylpyridin-4-yl)thiazol-2-yl]piperazine | 400 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C1=CC(=NC=C1)C | C18H24N4O2S
solvent | methanol | 12 ml | CO | CH4O
product | 1-[5-(2-methylpyridin-4-yl)thiazol-2-yl]piperazine hydrochloride | Cl.CC1=NC=CC(=C1)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C13H16N4S.ClH/c1-10-8-11(2-3-15-10)12-9-16-13(18-12)17-6-4-14-5-7-17;/h2-3,8-9,14H,4-7H2,1H3;1H
